US04857530
In a process analogous to Example 1 by substituting 4-(2-propynylamino)benzonitrile (see Example F) for 1-[4-(2-propynylamino)phenyl]ethanone and N-[6-(bromomethyl)-3,4-dihydro-4-oxo-2-quinazolinyl]-2,2-dimethylpropanamide (Journal of Heterocyclic Chemistry, Vol. 12, pp. 1283-1286 (1975)) for 2,2-dimethylpropanoic acid, [6-(bromomethyl)-4-oxo-3(4H)-quinazolinyl]methyl ester (European patent application No. 204,529) one obtains 4-[[[2-[(2,2-dimethyl-1-oxopropyl)amino]-3,4-dihydro-4-oxo-6-quinazolinyl]methyl]-2-propynylamino]benzonitrile; mp 183°-186° C.

reactant | 1-[4-(2-propynylamino)phenyl]ethanone | C(C#C)NC1=CC=C(C=C1)C(C)=O | C11H11NO
reactant | N-[6-(bromomethyl)-3,4-dihydro-4-oxo-2-quinazolinyl]-2,2-dimethylpropanamide | BrCC=1C=C2C(NC(=NC2=CC1)NC(C(C)(C)C)=O)=O | C14H16BrN3O2
reactant | 2,2-dimethylpropanoic acid, [6-(bromomethyl)-4-oxo-3(4H)-quinazolinyl]methyl ester | CC(C(=O)OCN1C=NC2=CC=C(C=C2C1=O)CBr)(C)C | C15H17BrN2O3
product | 4-[[[2-[(2,2-dimethyl-1-oxopropyl)amino]-3,4-dihydro-4-oxo-6-quinazolinyl]methyl]-2-propynylamino]benzonitrile | CC(C(=O)NC1=NC2=CC=C(C=C2C(N1)=O)CN(C1=CC=C(C#N)C=C1)CC#C)(C)C | C24H23N5O2
